US07524856B2
4-(Acetylamino)-3-hydroxyphenyl acetate
To a solution of 2-methyl-1,3-benzoxazol-6-yl acetate (5.05 g, 28.8 mmol) in THF (100 mL) a mixture of trifluoroacetic acid/water (4 mL/10 mL) was added. The reaction mixture was stirred at room temperature for 16 hours, saturated aqueous NaHCO3 (150 mL) was added. The mixture was extracted with ethyl acetate, dried over Na2SO4, filtered and concentrated in vacuo to give sub-title compound (4.0 g) as a crude product.

reactant | 2-methyl-1,3-benzoxazol-6-yl acetate | 28.8 mmol, 5.05 g | C(C)(=O)OC1=CC2=C(N=C(O2)C)C=C1 | C10H9NO3
reactant | trifluoroacetic acid water | 4 mL | FC(C(=O)O)(F)F.O
reactant | NaHCO3 | 150 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(Acetylamino)-3-hydroxyphenyl acetate | 4.0 g | C(C)(=O)OC1=CC(=C(C=C1)NC(C)=O)O | C10H11NO4
